US07057067B2
Into the same reactor as in Example 1 were charged 1.32 mg of palladium acetate, 0.78 g of 1,3-diiodo-5,5-dimethylhydantoin, n-butyl 2-(1,1-dimethyl-2-methylsulfinylethylaminocarbonyl)benzoate and 5 ml of N,N-dimethylacetamide. After stirring the mixture at 90° C. for 30 minutes, 0.56 g of 1,3-diiodo-5,5-dimethylhydantoin was added, and the mixture thus obtained was stirred at 90° C. for 3.5 hours. After completion of the reaction, the solvent was distilled off under reduced pressure, an aqueous solution of sodium thiosulfate was added, and the mixture thus obtained was extracted twice with toluene. The organic layer was washed successively with 0.5N aqueous hydrochloric acid, an aqueous solution of sodium bicarbonate and a saturated aqueous solution of sodium chloride. The organic layer was dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The crude product thus obtained was washed with hexane-ether mixture to obtain 2.26 g of n-butyl 2-(1,1-dimethyl-2-methylsulfinylethylaminocarbonyl)-3-iodobenzoate (yield 82%, melting point 57.5–66.3° C.). Regioselectivity of iodination into the 3-position was 100%.

reactant | 1,3-diiodo-5,5-dimethylhydantoin | 0.78 g | IN1C(=O)N(C(=O)C1(C)C)I | C5H6I2N2O2
reactant | n-butyl 2-(1,1-dimethyl-2-methylsulfinylethylaminocarbonyl)benzoate | CC(CS(=O)C)(C)NC(=O)C1=C(C(=O)OCCCC)C=CC=C1 | C17H25NO4S
reactant | 1,3-diiodo-5,5-dimethylhydantoin | 0.56 g | IN1C(=O)N(C(=O)C1(C)C)I | C5H6I2N2O2
catalyst | palladium acetate | 1.32 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | N,N-dimethylacetamide | 5 ml | CN(C(C)=O)C | C4H9NO
product | n-butyl 2-(1,1-dimethyl-2-methylsulfinylethylaminocarbonyl)-3-iodobenzoate | 2.26 g, yield 82% | CC(CS(=O)C)(C)NC(=O)C1=C(C(=O)OCCCC)C=CC=C1I | C17H24INO4S
